US07074777B2
(3) 1α,3β-bis(tert-butyldimethylsilyloxy)-17β-(methanesulfonyloxymethyl)androsta-5,7-diene
A solution of 1α,3β-bis(tert-butyldimethylsilyloxy)-17β-(hydroxymethyl)androsta-5,7-diene (150 mg, 0.274 mmol) and triethylamine (0.153 ml, 1.10 mmol) in tetrahydrofuran (2.3 ml) was cooled to 0° C., followed by the addition of methanesulfonyl chloride (63 μl, 0.814 mmol) and stirring at 0° C. for 1 hour. The reaction mixture was diluted with hexane, washed with water and saturated brine, dried over anhydrous magnesium sulfate and evaporated under reduced pressure to remove the solvent. The thus obtained residue was purified by column chromatography (hexane:ethyl acetate=9:1) to give the titled compound (155 mg, 91%) as a colorless foam.

reactant | 1α,3β-bis(tert-butyldimethylsilyloxy)-17β-(hydroxymethyl)androsta-5,7-diene | 0.274 mmol, 150 mg | [Si](C)(C)(C(C)(C)C)O[C@H]1C[C@@H](CC2=CC=C3[C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]3[C@@]12C)CO)O[Si](C)(C)C(C)(C)C | C32H58O3Si2
reactant | triethylamine | 1.10 mmol, 0.153 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.814 mmol, 63 μl | CS(=O)(=O)Cl | CH3ClO2S
solvent | tetrahydrofuran | 2.3 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | 1α,3β-bis(tert-butyldimethylsilyloxy)-17β-(methanesulfonyloxymethyl)androsta-5,7-diene | 155 mg, 91% | [Si](C)(C)(C(C)(C)C)O[C@H]1C[C@@H](CC2=CC=C3[C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]3[C@@]12C)COS(=O)(=O)C)O[Si](C)(C)C(C)(C)C | C33H60O5SSi2
